.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ5010-105
* Inductance = 1000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-4MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ5010-105_freq port1 port2 PARAMS: Cpar=2.51pF Ind=1000uH
X1 port1 port2 Model1A PARAMS:
+ R1=460
+ R2=28
+ C= {Cpar}
+ K1=0.0007
+ K2=440
+ K3= {Ind}
+ K4=3
+ K5=0.0000138
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=409518.831
.ends LPZ5010-105_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ5010-105
* Inductance = 1000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-4MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ5010-105_imp port1 port2 PARAMS: Cpar=2.482pF Ind=1000uH
X1 port1 port2 Model1D PARAMS:
+ R1=460
+ R2=28
+ C= {Cpar}
+ K1=0.0007
+ K2=440
+ K3= {Ind}
+ K4=3
+ K5=0.0000138
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=409518.831
.ends LPZ5010-105_imp

