.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ5015-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ5015-335_freq port1 port2 PARAMS: Cpar=2.4pF Ind=3300uH
X1 port1 port2 Model1A PARAMS:
+ R1=30
+ R2=55
+ C= {Cpar}
+ K1=0.00000006
+ K2=1275
+ K3= {Ind}
+ K4=0.98
+ K5=0.331
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1645290.603
.ends LPZ5015-335_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ5015-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ5015-335_imp port1 port2 PARAMS: Cpar=2.391pF Ind=3300uH
X1 port1 port2 Model1D PARAMS:
+ R1=30
+ R2=55
+ C= {Cpar}
+ K1=0.00000006
+ K2=1275
+ K3= {Ind}
+ K4=0.98
+ K5=0.331
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1645290.603
.ends LPZ5015-335_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ5015-475
* Inductance = 4700uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-9MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ5015-475_freq port1 port2 PARAMS: Cpar=3.05pF Ind=4700uH
X1 port1 port2 Model1A PARAMS:
+ R1=36
+ R2=80
+ C= {Cpar}
+ K1=0.00000006
+ K2=1400
+ K3= {Ind}
+ K4=4
+ K5=0.00707
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1558041.979
.ends LPZ5015-475_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ5015-475
* Inductance = 4700uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-9MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ5015-475_imp port1 port2 PARAMS: Cpar=3.026pF Ind=4700uH
X1 port1 port2 Model1D PARAMS:
+ R1=36
+ R2=80
+ C= {Cpar}
+ K1=0.00000006
+ K2=1400
+ K3= {Ind}
+ K4=4
+ K5=0.00707
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1558041.979
.ends LPZ5015-475_imp

